US06437142B1
5.1.4 Preparation of (2E,9Z)-12,12,12-Trifluoro-7,7-dimethyl-11-triethylsilanyloxy-11-trifluoromethyl-dodeca-2,9-dien-1-ol
To a solution of 10.09 g of (2E,9Z)-12,12,12-Trifluoro-7,7-dimethyl-11-triethylsilanyloxy-11-trifluoromethyl-dodeca-2,9-dienoic acid ethyl ester in 100 ml of toluene was added at −78° 40.0 ml of diisobutylaluminiumhydride (1.2 M in toluene) and stirring was continued for 30 min after which time t.l.c. indicated completion of the reaction. The mixture was washed with sat. aqueous NH4Cl-solution and water, the organic layer was dried over MgSO4 and evaporated to give 8.92 g of the pure (t.l.c.) title compound as a pale yellow oil. IR (neat): 3332m, br. (OH), 1669w (C═C).

reactant | (2E,9Z)-12,12,12-Trifluoro-7,7-dimethyl-11-triethylsilanyloxy-11-trifluoromethyl-dodeca-2,9-dienoic acid ethyl ester | 10.09 g | C(C)OC(\C=C\CCCC(C\C=C/C(C(F)(F)F)(C(F)(F)F)O[Si](CC)(CC)CC)(C)C)=O | C23H38F6O3Si
reactant | diisobutylaluminiumhydride | 1.2 M, 40.0 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (2E,9Z)-12,12,12-Trifluoro-7,7-dimethyl-11-triethylsilanyloxy-11-trifluoromethyl-dodeca-2,9-dien-1-ol | FC(C(\C=C/CC(CCC/C=C/CO)(C)C)(C(F)(F)F)O[Si](CC)(CC)CC)(F)F | C21H36F6O2Si
